US05663154
6-Benzylmercapto-9H-purine (0.49 g, 2.0 mmoles, Sigma Chemical Company) and 2',3'-dideoxy-3'-fluorouridine (0.32 g, 1.4 mmoles) were suspended in potassium phosphate buffer (10 mM) 100 ml), pH 6.8, containing 0.04% potassium azide. Purified purine nucleoside phosphorylase (1070 I.U.) and thymidine phosphorylase (400 I.U.) (Krenitsky et al., Biochemistry, 20, 3615 (1981) and U.S. Pat. No. 4,381,344) were added to the reaction mixture and the suspension stirred at 45° C. After 3 days, additional purine nucleoside phosphorylase (10,700 I.U.) and thymidine phosphorylase (4000 I.U.) were added. Four days later, methanol was added to the reaction mixture to precipitate protein. The protein was removed by filtration and the filtrate applied to a series of coupled columns. The first column contained AG1 resin (2.5×10 cm, OH- form) and the second column contained XAD resin (2.5×20 cm). The columns were washed with water 300 ml and the product removed with methanol. Product fractions were pooled and solvent was removed in vacuo. The residue was flash chromatographed on silica gel (2.5×20 cm) using chloroform:methanol (199:1). Solvent was removed and lyophilization yielded 6-benzylmercapto-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine (0.41 g).

reactant | 6-Benzylmercapto-9H-purine | 2.0 mmoles, 0.49 g | C(C1=CC=CC=C1)SC1=C2N=CNC2=NC=N1 | C12H10N4S
reactant | 2',3'-dideoxy-3'-fluorouridine | 1.4 mmoles, 0.32 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 100 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | methanol | CO | CH4O
product | 6-benzylmercapto-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine | 0.41 g | C(C1=CC=CC=C1)SC1=C2N=CN(C2=NC=N1)[C@H]1C[C@@H]([C@H](O1)CO)F | C17H17FN4O2S
